US09315490B2
51a) Methyl 3-(methylthio)-1H-indole-6-carboxylate
Dimethyl sulfide (0.54 mL, 7.42 mmol) was added dropwise at 0° C. to a suspension of N-chlorosuccinimide (0.99 g, 7.42 mmol) in dichloromethane (10 mL). The reaction mixture was cooled to −20° C. and a solution of 1H-indole-6-carboxylic acid methyl ester (1.0 g, 5.71 mmol) in dichloromethane (10 mL) was added. The reaction mixture was warmed to room temperature and stirred for 1 h. The solvent was evaporated and the residue and xylene (50 mL) were refluxed at 140-150° C. for 1 h. The xylene was removed under vacuum and the remnant purified by column chromatography [100-200 mesh silica; dichloromethane/hexane=1:1]. Light brown solid. Yield: 0.9 g (71% of theory). HPLC-MS (method 5): Rt=3.26 min; m/z [M+H]+=222

reactant | Dimethyl sulfide | 7.42 mmol, 0.54 mL | CSC | C2H6S
reactant | N-chlorosuccinimide | 7.42 mmol, 0.99 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1H-indole-6-carboxylic acid methyl ester | 5.71 mmol, 1.0 g | COC(=O)C1=CC=C2C=CNC2=C1 | C10H9NO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methyl 3-(methylthio)-1H-indole-6-carboxylate | CSC1=CNC2=CC(=CC=C12)C(=O)OC | C11H11NO2S
